US05352690
1-Benzyloxy-3-(6-cyano-6-methylheptyloxy)-4-ethyl -6-pentyloxy benzene was prepared in 100% yield as a white solid from 1-Benzyloxy-3-(6-cyano-6-methylheptyloxy)-4-ethyl-6-hydroxy benzene and 1-bromopentane.

reactant | 1-Benzyloxy-3-(6-cyano-6-methylheptyloxy)-4-ethyl-6-hydroxy benzene | C(C1=CC=CC=C1)OC1=CC(=C(C=C1O)CC)OCCCCCC(C)(C)C#N | C24H31NO3
reactant | 1-bromopentane | BrCCCCC | C5H11Br
product | 1-Benzyloxy-3-(6-cyano-6-methylheptyloxy)-4-ethyl -6-pentyloxy benzene | 100% yield | C(C1=CC=CC=C1)OC1=CC(=C(C=C1OCCCCC)CC)OCCCCCC(C)(C)C#N | C29H41NO3
